US04563446
p-Toluensulfonate of (E)-7-phenyl-7-(3-pyridyl)-6-hepten-1-ol (1.0 g, 2.4 mmoles) was dissolved in dimethyl sulfoxide (10 ml), and sodium cyanide (0.3 g, 6 mmoles) was added, followed by stirring for 18 hours. To the reaction mixture was added water (100 ml) and the product was extracted with ethyl acetate. The organic layer was washed with water, dried and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography using ethyl acetate-isopropyl ether (1:1) as the developing solvent to give (E)-1-cyano-7-phenyl-7-(3-pyridyl)-6-heptene (0.5 g, 76%).

reactant | p-Toluensulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C
reactant | (E)-7-phenyl-7-(3-pyridyl)-6-hepten-1-ol | 2.4 mmoles, 1.0 g | C1(=CC=CC=C1)\C(=C/CCCCCO)\C=1C=NC=CC1 | C18H21NO
reactant | sodium cyanide | 6 mmoles, 0.3 g | [C-]#N.[Na+]
reactant | water | 100 ml | O | H2O
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
product | (E)-1-cyano-7-phenyl-7-(3-pyridyl)-6-heptene | 0.5 g, 76% | C(#N)CCCCC\C=C(\C=1C=NC=CC1)/C1=CC=CC=C1 | C19H20N2
